US09102684B2
5-Bromo-2,3-dimethyl-3-phenyl-2,3-dihydro-isoindol-1-one
To a solution of 5-Bromo-2-methyl-3-phenyl-2,3-dihydro-isoindol-1-one (250 mg; 0.83 mmol) in 2.5 ml of anhydrous tetrahydrofuran at −30° C. is added an 0.5 mol/l potassium bis(trimethylsilyl)amide (2.5 ml; 1.24 mmol) solution. After 30 minutes iodomethane (77 μl; 1.24 mmol) is added and stirred for 16 hours at −30° C. The reaction mixture is diluted with methanol and purified via reversed phase chromatography under basic conditions.

reactant | 5-Bromo-2-methyl-3-phenyl-2,3-dihydro-isoindol-1-one | 0.83 mmol, 250 mg | BrC=1C=C2C(N(C(C2=CC1)=O)C)C1=CC=CC=C1 | C15H12BrNO
reactant | potassium bis(trimethylsilyl)amide | 1.24 mmol, 0.5 mol/l, 2.5 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | iodomethane | 1.24 mmol, 77 μl | IC | CH3I
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 5-Bromo-2,3-dimethyl-3-phenyl-2,3-dihydro-isoindol-1-one | BrC=1C=C2C(N(C(C2=CC1)=O)C)(C1=CC=CC=C1)C | C16H14BrNO
